US07338958B2
k) Production of (R)-3-[(5-bromo-2-chloropyrimidin-4-yl)amino]-2-methyl-butan-2-ol
An ice-cooled solution of 2.95 g (10.0 mmol) of methyl-N-(5-bromo-2-chloropyrimidin-4-yl)-D-alaninate in 150 ml of THF is mixed drop by drop with 30 ml (90 mmol) of a 3 molar solution of methylmagnesium bromide in diethyl ether. After 2.5 hours at room temperature, the batch is mixed with 30 ml of saturated ammonium chloride solution. It is diluted with water and extracted from ethyl acetate (3×). The combined organic phases are dried (Na2SO4), filtered and concentrated by evaporation. The remaining residue is purified by chromatography (hexane/ethyl acetate: 4: 1-1:1). 2.81 g (9.5 mmol, corresponding to 95% of theory) of the product is obtained.

reactant | methyl-N-(5-bromo-2-chloropyrimidin-4-yl)-D-alaninate | 10.0 mmol, 2.95 g | COC([C@H](NC1=NC(=NC=C1Br)Cl)C)=O | C8H9BrClN3O2
reactant | methylmagnesium bromide | C[Mg]Br
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (R)-3-[(5-bromo-2-chloropyrimidin-4-yl)amino]-2-methyl-butan-2-ol | BrC=1C(=NC(=NC1)Cl)N[C@@H](C(C)(O)C)C | C9H13BrClN3O
